US06469171B1
2-(2-Bromophenyl)ethyl 4-Methylbenzenesulfonate (13)
A magnetically stirred solution of 2-bromophenethyl alcohol (5.00 g, 24.9 mmol, ex ALDRICH) and 4-methylbenzenesulfonyl chloride (11.20 g, 59.7 mmol) in diethyl ether (50 ml) was cooled to 0° C. (ice-bath) then treated with powdered KOH (3.2 g, 2.4 mole equiv.). The reaction mixture thus obtained was allowed to warm to 18° C., stirred at this temperature for 2.0 h then diluted with water (100 ml). The separated organic phase was washed with water (1×100 ml) then dried (MgSO4), filtered and concentrated under reduced pressure to give a white solid. Since this material contained residual 4-methylbenzenesulfonyl chloride it was dissolved in pyridine (75 ml) and the resulting solution stirred at 18° C. for 0.16 h then diluted with water (500 ml) and extracted with diethyl ether (1×500 ml). The separated organic phase was washed with HCl (1×250 ml of a 5 M aqueous solution) then sodium hydrogen carbonate (1×250 ml of a 0.5 M aqueous solution) before being dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (8.66 g, 98%) as white crystalline masses, m.p. 39-39.5° C. (Found: C, 50.9; H, 4.2; Br, 22.6; S, 8.8. C15H15BrO3S requires C, 50.7; H, 4.3; Br, 22.5; S, 9.0%). nmax (KBr) 1356, 1177, 1021, 980, 962, 895, 812, 769, 752, 665, 557 cm−1. 1H n.m.r. d 7.68, d, J 8.3 Hz, 2H; 7.45, d, J 7.7 Hz, 1H; 7.27, d, J 8.3 Hz, 2H; 7.17, m, 2H; 7.07, m, 1H; 4.25, t, J 7.0 Hz, 2H; 3.09, t, J 7.0 Hz, 2H; 2.43, s, 3H. 13C n.m.r. d 144.5 (C), 135.3 (C), 132.7 (CH), 132.8 (C), 131.3 (CH), 129.7 (CH), 128.5 (CH), 127.6 (CH), 127.4 (CH), 124.2 (C), 68.6 (CH2), 35.5 (CH2), 21.5 (CH3). Mass spectrum m/z 356 (0.7%) 354 (0.7) (M+.); 184 (98) 182 (100) [M—H3CC6H4SO3H)+.]; 171 (49) 169 (51); 155 (45); 103 (32); 91 (80) (C7H7+).

reactant | 2-bromophenethyl alcohol | 24.9 mmol, 5.00 g | BrC1=C(CCO)C=CC=C1 | C8H9BrO
reactant | 4-methylbenzenesulfonyl chloride | 59.7 mmol, 11.20 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | KOH | 2.4 mole, 3.2 g | [OH-].[K+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 500 ml | O | H2O
product | 2-(2-Bromophenyl)ethyl 4-Methylbenzenesulfonate | 8.66 g, 98% | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=C(C=CC=C1)Br | C15H15BrO3S
